US06114390
a) (R)-N-[[4-(Aminocarbonylaminomethyl)phenyl]methyl]-N5 -[amino(nitroimino)methyl]-N2 -[(1H-indol-4-yl)carbonyl]ornithinamide
Prepared analogously to Example 69a) from 1H-indole-4-carboxylic acid, (R)-N-[[4-(aminocarbonylaminomethyl)phenyl]methyl]-N5 -[amino(nitroimino)methyl]-ornithinamide-hydrochloride and TBTU in a yield of 82% of theory.

reactant | 1H-indole-4-carboxylic acid | N1C=CC=2C(=CC=CC12)C(=O)O | C9H7NO2
reactant | (R)-N-[[4-(aminocarbonylaminomethyl)phenyl]methyl]-N5 -[amino(nitroimino)methyl]-ornithinamide-hydrochloride | Cl.NC(=O)NCC1=CC=C(C=C1)CNC([C@H](N)CCCNC(=N[N+](=O)[O-])N)=O
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
product | (R)-N-[[4-(Aminocarbonylaminomethyl)phenyl]methyl]-N5 -[amino(nitroimino)methyl]-N2 -[(1H-indol-4-yl)carbonyl]ornithinamide | yield of 82% | NC(=O)NCC1=CC=C(C=C1)CNC([C@H](NC(=O)C1=C2C=CNC2=CC=C1)CCCNC(=N[N+](=O)[O-])N)=O | C24H29N9O5
